US04423242
(a) 2-Benzyl-3-(diethoxyphosphinyl)propionic acid ethyl ester
To a mixture of diethylphosphite (6.9 g) and 2-benzylacrylic acid ethyl ester (9.5 g) (prepared according to the procedure of C. Mannich and K. Risert Ber. (1924), 57, 1116 from benzylmalonic acid mono ethyl ester) was added, with stirring at ambient temperature under an atmosphere of nitrogen, a solution of sodium (1.15 g) in ethanol (20 ml). Following the initial exothermic reaction stirring was continued for 48 hr. The solvent was evaporated in vacuo and the residual gum partitioned between ether (100 ml) and 5% CA (50 ml). The ether solution was shaken once more with 5% CA (50 ml), dried (MgSO4) and the residue distilled, collecting the fraction (3.7 g) m.p. 58°-72°/0.02-0.03 mm). The structure of the product was confirmed by NMR and Mass spectroscopy.

reactant | diethylphosphite | 6.9 g | C(C)OP(OCC)[O-]
reactant | 2-benzylacrylic acid ethyl ester | 9.5 g | C(C)OC(C(=C)CC1=CC=CC=C1)=O | C12H14O2
reactant | benzylmalonic acid mono ethyl ester | C(C)OC(C(C(=O)O)CC1=CC=CC=C1)=O | C12H14O4
reactant | sodium | 1.15 g | [Na] | Na
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Benzyl-3-(diethoxyphosphinyl)propionic acid ethyl ester | C(C)OC(C(CP(=O)(OCC)OCC)CC1=CC=CC=C1)=O | C16H25O5P
